US05246915
65.2 g of 1-amino-2,2-dimethyl-1,2,3,4-tetrahydronaphthalene are solved in 250 ml of diethyl ether. To this solution is dropwise added a solution of 28.5 g of bromoacetic acid methyl ester in 150 ml of diethyl ether. The mixture is stirred at room temperature for 70 hours. The precipitate is separated and the solution is concentrated to dryness, yielding N-(2,2-dimethyl-1,2,3,4-tetrahydronaphthalen-1-yl) glycine methyl ester quantitatively.

reactant | 1-amino-2,2-dimethyl-1,2,3,4-tetrahydronaphthalene | 65.2 g | NC1C(CCC2=CC=CC=C12)(C)C | C12H17N
reactant | bromoacetic acid methyl ester | 28.5 g | COC(CBr)=O | C3H5BrO2
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | N-(2,2-dimethyl-1,2,3,4-tetrahydronaphthalen-1-yl) glycine methyl ester | COC(CNC1C(CCC2=CC=CC=C12)(C)C)=O | C15H21NO2
